Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pneumonia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ male with history of asthma who presents 
as a transfer from ___ due to pneumonia and 
T-spine fractures. 

Patient has a history of asthma and has had multiple courses of 
oral steroids over the past 9 months.  Last finished a 40 mg 
steroid taper 10 days prior to admission. He notes increased 
productive cough and dyspnea on exertion over past 2 days, which 
he has had in the past. 

Patient also notes 2 weeks of back pain. Pain started ___ when 
he stood up to get off the plane. Pain is felt in his T9 area 
and at its worst is a 10 out of 10.  When patient tries to stand 
from sitting, pain wraps around his ribs to his abdomen and is 
at its most severe. Patient feels pain has been getting worse 
over past week. He denies associated lower extremity weakness, 
pain,
parasthesia, or saddle anesthesia. Denies urinary or fecal 
incontinence.  He denies night sweats, IV drug use, shortness of 
breath, recent weight loss.

He had a follow-up appointment with his allergist today who 
noted decreased peak flow as well as back pain and sent him to 
the ___ for further evaluation.

___ Labs:
Trop-T: < 0.010, NT-proBNP BNPG = 21, BMP wnl, WBC 10.7.
He was noted to have mild hypoxia to 90% on room air, had a CTA 
that did not show any evidence of PE, but did show evidence of 
pneumonia as well as:
-Comminuted T9 vertebral body fracture with moderate loss of 
height and minimal bulging of the posterior cortex, with 
partially visible fracture lines and mild diffuse sclerosis, and 
with associated prevertebral hematoma, likely subacute.
-Mild to moderate T12 compression fracture of unknown 
chronicity, but new compared to ___, without visible 
fracture lines or associated prevertebral hematoma.
At ___ he received solumedrol, levofloxacin, duonebsx3

He was transferred here for spine evaluation.

In ___ ED vitals notable for afebrile temperature, heart rate 
70-87, BP 136/83, RR 20, satting 94% on 3 L initially --> 95% 2 
L by time of transfer.  He was seen by  spine consult service, 
who noted 'reassuring exam and no history of acute trauma. Admit 
to medicine for pneumonia and medical optimization. Will staff 
with Dr. ___ recs pending staffing.' He was also seen 
by trauma service who noted 'agree with admission to medicine as
there was no trauma/fall.'  Labs notable for WBC 5.4 (from 10.7 
at OSH) N% 90.8, otherwise wnl.

Upon arrival to the medicine ward, patient corroborates the 
above history.  Pain is currently a ___ felt in the middle of 
his low back. Some SOB but no cough, fevers or chills. Otherwise 
ROS as above.

REVIEW OF SYSTEMS:
ROS as per HPI. Otherwise 10 point ROS reviewed and negative

 
Past Medical History:
Asthma. Mutliple steroid tapers in past. Started omalizumab
injections in ___
HTN
Nasal polyposis
Chronic sinusitis
Allergic rhinitis
 
Social History:
___
Family History:
No significant family history of pulmonary conditions
 
Physical Exam:
DISCHARGE
Vitals: Temp: 97.9 PO BP: 124/78 HR: 83 RR: 18 O2 sat: 92% O2
delivery: Ra 
General: Appears well, in NAD
HEENT: PEERLA
Neck: Supple, no LAD
Lungs: Clear bilaterally with reduced breath sounds over the R
lower lobe, expiratory wheezes audible bilaterally
CV: Normal rate, regular rhythm. Normal S1, S2. No m/r/g
GI: Normal bowel sounds present, no pain/tenderness to light or
deep palpation
Ext: WWP, no pitting edema
Neuro: CNs II-XII diffusely in tact

 
Pertinent Results:
ADMISSION:
___ 06:09PM   WBC-5.4 RBC-4.30* HGB-13.3* HCT-38.8* MCV-90 
MCH-30.9 MCHC-34.3 RDW-12.4 RDWSD-41.1
___ 06:09PM   ___ PTT-28.6 ___
___ 06:09PM   GLUCOSE-144* UREA N-11 CREAT-0.7 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-22 ANION GAP-17

DISCHARGE:
___ 06:49AM BLOOD WBC-8.1 RBC-4.45* Hgb-13.9 Hct-41.1 
MCV-92 MCH-31.2 MCHC-33.8 RDW-12.6 RDWSD-42.7 Plt ___
___ 06:49AM BLOOD Glucose-92 UreaN-13 Creat-0.8 Na-143 
K-4.4 Cl-102 HCO3-22 AnGap-19*
___ 06:49AM BLOOD 25VitD-28*
___ 06:49AM BLOOD PTH-35
___ 06:49AM BLOOD TSH-1.2

IMAGING:
-CTA chest (___):
Mild enlargement of the main pulmonary artery, increased 
compared
to ___, suggesting mild pulmonary arterial hypertension.
Please correlate clinically.
3. Diffuse peripheral bronchial wall thickening with foci of 
bronchial plugging.
4. Peribronchial opacities in the basal right lower lobe, 
compatible with pneumonia.
5. Subpleural linear opacity in the anterior/lateral basal left
lower lobe, new compared to ___, compatible with 
atelectasis or
scarring.
6. Comminuted T9 vertebral body fracture with moderate loss of
height and minimal bulging of the posterior cortex, with 
partially visible
fracture lines and mild diffuse sclerosis, and with associated
prevertebral hematoma, likely subacute.
7. Mild to moderate T12 compression fracture of unknown
chronicity, but new compared to ___, without visible 
fracture lines or associated prevertebral hematoma.

 
Brief Hospital Course:
Summary: 
===========================
Mr. ___ is a ___ male with history of asthma who 
presents as a transfer from ___ due to pneumonia 
and T-spine fractures. 

Acute issues:
#Pneumonia
Patient reports ___ days of coughing with production of 
green/gray sputum. Reported shortness of breath at ___ 
and had WBC count of 10.7. CTA was done that was negative for PE 
but showed evidence of pneumonia. He received levofloxacin at ___ 
___ before being transferred to ___ where he was started 
on IV ceftriaxone and po azithromycin. At transfer he required 
3L of O2 in the ED. On admission day 1 he was satting 
comfortably on room air. Sputum cultures were sent and were 
pending on discharge. We discharged him on cefpodoxime ___ 
___ and azithromycin (___) for a total of 7 
days of antibiotics.

#Vertebral fractures
#Osteoporosis
Patient reported severe ___ back pain upon getting off a plane 
2 weeks prior on ___. He was able to walk but had difficulty 
carrying luggage. On CTA he was found to have a T9 vertebral 
body fracture and T12 compression fracture. At ___ orthopedics 
was consulted and determined he did not need operative 
management and recommended TLSO brace for comfort, which the 
patient declined. During hospitalization he was comfortable with 
PRN acetaminophen and ibuprofen reporting ___ pain. He will 
need follow up spinal X-rays in 2 weeks.

Chronic issues:
#Severe persistent asthma
Patient has a ___ year history of asthma requiring multiple 
courses of high dose steroids, most recently a 40 mg taper from 
___. In addition he has had 9 months of treatment with 
xolair (omalizumab) with little benefit other than prolonging 
the time he needs in between steroid courses. In the hospital he 
received solumedrol and duonebs x3 at ___. At ___ he 
received fluticasone-salmeterol and montelukast. He was written 
for duonebs PRN but did not require them. He should follow up 
with his allergist and a new pulmonologist at ___ for this.

Transitional:
[] Follow up with PCP.
[] Follow up with at the ___ Pulmonary clinic at ___ 
for a second opinion on lung condition
[] Follow up with at the ___ clinic at 
___ for osteoporosis management as he now has diagnosis 
of osteoporosis given the pathologic fracture. He will need to 
be considered for bisphosphonate treatment.
[] Will need follow up spinal Xrays in 2 weeks to ensure proper 
alignment. This can be ordered by the PCP or follow up can be 
made with ortho spine.
[] Discharged on cefpodoxime through ___ and Azithromycin 
through ___
[] We started vitamin D and calcium for his osteoporosis
[] Consider starting bisphosphonates for his osteoporosis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 7.5 mg PO DAILY 
2. Montelukast 10 mg PO DAILY 
3. budesonide 0.5 mg/2 mL inhalation PRN 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation PRN 
6. Xolair (omalizumab) 375 mg subcutaneous ASDIR 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*4 
Tablet Refills:*0 
2.  Calcium Carbonate 1000 mg PO DAILY 
RX *calcium carbonate 400 mg calcium (1,000 mg) 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0 
3.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 5 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice daily Disp 
#*20 Tablet Refills:*0 
4.  Vitamin D 1000 UNIT PO DAILY  
5.  albuterol sulfate 2.5 mg /3 mL (0.083 %) inhalation PRN  
6.  amLODIPine 7.5 mg PO DAILY  
7.  budesonide 0.5 mg/2 mL inhalation PRN  
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
9.  Montelukast 10 mg PO DAILY  
10.  Xolair (omalizumab) 375 mg subcutaneous ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Osteoporosis
Vertebral fractures
Pneumonia

Secondary:
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You were transferred from ___ for treatment of 
pneumonia
- You also had broken bones in your spine

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were treated with antibiotics for pneumonia
- The orthopedics team came to see you and determined you did 
not need surgery 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- If you feel that you would benefit from the back brace for 
comfort call your doctor.
- Follow up with at the ___ Pulmonary clinic at ___ 
for a second opinion on lung condition
- Follow up with at the ___ clinic at 
___ for your osteoporosis

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___